US05438035
Preparation of 9-chloro-4-tert-butyl-3,4-dihydro-7-methyl-1H-1,4-benzodiazepine-2,5-dione
Chlorine gas (100 mL, 4.1 mmol) is added via syringe to a mixture of 4-tert-butyl-3,4-dihydro-7-methyl-1H-1,4-benzodiazepine-2,5-dione (1.0 g, 4.1 mmol) and a few grains of ferric chloride hexahydrate in acetic acid. The reaction mixture is stirred at room temperature overnight, poured into water and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water, dilute sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a foam. Flash column chromatography of the foam using silica gel and a 20:1 methylene chloride/ethyl acetate solution gives the title product as a white solid (0.5 g, mp 151°-152° C.).

reactant | Chlorine | 4.1 mmol, 100 mL | ClCl | Cl2
reactant | 4-tert-butyl-3,4-dihydro-7-methyl-1H-1,4-benzodiazepine-2,5-dione | 4.1 mmol, 1.0 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)C)=O | C14H18N2O2
reactant | water | O | H2O
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9-chloro-4-tert-butyl-3,4-dihydro-7-methyl-1H-1,4-benzodiazepine-2,5-dione | 0.5 g | ClC1=CC(=CC=2C(N(CC(NC21)=O)C(C)(C)C)=O)C | C14H17ClN2O2
